US07393959B2
To a solution of 2-(1H-pyrrol-3-yl)pyridine (432 mg, 3.0 mmol) in DMF (15 mL) at 50° C. was added NaH (3.15 mmol, 60% suspension in oil). After 10 min, 2,6-dichloropyridine (1.33 g, 9.0 mmol) was added, and the reaction was warmed to 120° C., stirred for 18 h, then quenched with water (100 mL) and partitioned with EtOAc (100 mL). The aqueous layer was washed with additional EtOAc (2×75 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by liquid chromatography on SiO2 eluting with 1:1 hexanes:EtOAc to afford 2-chloro-6-(3-pyridin-2-yl-1H-pyrrol-1-yl)pyridine as a tan solid. H-NMR (CDCl3, 500 MHz) δ 8.60 (d, 1H), 8.13 (dd, 1H), 7.66-7.79 (m, 2H), 7.57-7.61 (m, 2H), 7.31 (d, 1H), 7.16 (d, 1H), 7.11 (dd, 1H), 6.88 (m, 1H).

reactant | 2-(1H-pyrrol-3-yl)pyridine | 3.0 mmol, 432 mg | N1C=C(C=C1)C1=NC=CC=C1 | C9H8N2
reactant | NaH | 3.15 mmol | [H-].[Na+]
reactant | 2,6-dichloropyridine | 9.0 mmol, 1.33 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-chloro-6-(3-pyridin-2-yl-1H-pyrrol-1-yl)pyridine | ClC1=NC(=CC=C1)N1C=C(C=C1)C1=NC=CC=C1 | C14H10ClN3
